US07618960B2
Synthesis of (S)-4-[(1R,2R)-2-tert-butyldiphenylsilanyloxy-1-(3,4,5-trifluorophenyl)propyl]-6-methylmorpholine-2,3-dione
Oxalyl chloride (45 μl) was added dropwise to a solution of (S)-1-[(1R,2R)-2-tert-butyldiphenylsilanyloxy-1-(3,4,5-trifluorophenyl)propylamino]propan-2-ol (171 mg), TEA (0.17 ml), and 4-(N,N-dimethylamino)pyridine (8 mg) in methylene chloride (2 ml) under ice-cooling in a nitrogen atmosphere, and the reaction solution was stirred at the same temperature for two hours. Ice water was added to the reaction solution, followed by extraction with ethyl acetate. Then, the organic layer was sequentially washed with water, 1 N hydrochloric acid, water, a saturated sodium bicarbonate solution, and brine. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The resulting residue was purified by silica gel column chromatography (heptane:ethyl acetate=9:1 to 3:1) to obtain 96 mg of the title compound.

reactant | Oxalyl chloride | 45 μl | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (S)-1-[(1R,2R)-2-tert-butyldiphenylsilanyloxy-1-(3,4,5-trifluorophenyl)propylamino]propan-2-ol | 171 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)O[C@@H]([C@@H](C1=CC(=C(C(=C1)F)F)F)NC[C@H](C)O)C | C28H34F3NO2Si
catalyst | 4-(N,N-dimethylamino)pyridine | 8 mg | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | (S)-4-[(1R,2R)-2-tert-butyldiphenylsilanyloxy-1-(3,4,5-trifluorophenyl)propyl]-6-methylmorpholine-2,3-dione | 96 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)O[C@@H]([C@@H](C1=CC(=C(C(=C1)F)F)F)N1C(C(O[C@H](C1)C)=O)=O)C | C30H32F3NO4Si
